US04266056
A mixture of N-ethoxycarbonylcyanoacetamide (42 g), triethylorthoformate (40 g) and acetic anhydride (100 ml) is heated to reflux for one hour. The reaction is allowed to stand until cool and then is filtered, washing with ether, to yield α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide.

reactant | N-ethoxycarbonylcyanoacetamide | 42 g | C(C)OC(=O)NC(CC#N)=O | C6H8N2O3
reactant | triethylorthoformate | 40 g | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
